US08110687B2
To a solution of 2-[3-(2,5-dimethyl-1H-pyrrol-1-yl)-5-(trifluoromethyl)phenyl]-propan-2-ol (2.29 g, 7.70 mmol) in EtOH (70 mL) and water (41 mL), was added hydroxylamine hydrochloride (16.1 g, 23.1 mmol) and potassium hydroxide (8.64 g, 154 mmol). The reaction mixture was heated at 110° C. for 18 h, and then allowed to cool to rt. The solvents were evaporated and the residue was dissolved in water and extracted with EtOAc (2×). The organic solutions were combined, washed with brine, dried over Na2SO4, filtered and evaporated. The residue was triturated with Et2O and the filtrate was evaporated to provide -[3-amino-5-(trifluoromethyl)phenyl]propan-2-ol (1.70 g, quant). 1H NMR (400 MHz,CDCl3) δ: 7.08 (s, 1H), 6.99 (s, 1H), 6.79 (s, 1H), and 1.56 (s, 6H).

reactant | 2-[3-(2,5-dimethyl-1H-pyrrol-1-yl)-5-(trifluoromethyl)phenyl]-propan-2-ol | 7.70 mmol, 2.29 g | CC=1N(C(=CC1)C)C=1C=C(C=C(C1)C(F)(F)F)C(C)(C)O | C16H18F3NO
reactant | hydroxylamine hydrochloride | 23.1 mmol, 16.1 g | Cl.NO
reactant | potassium hydroxide | 154 mmol, 8.64 g | [OH-].[K+]
reactant | EtOH | 70 mL | CCO | C2H6O
solvent | water | 41 mL | O | H2O
product | [3-amino-5-(trifluoromethyl)phenyl]propan-2-ol | 1.70 g | NC=1C=C(C=C(C1)C(F)(F)F)CC(C)O | C10H12F3NO
